US04505929
1-Bromo-4-(4-(methylsulfonyl)phenoxy)benzene
A mixture of 9.54 g (0.0500 mole) of 4-chlorophenyl methyl sulfone, 13.0 g (0.0750 mole) of 4-bromophenol, 10.37 g (0.0750 mole) of K2CO3 and 150 ml of sulfolane was heated at 150° C. for 5.5 hrs and at 160° C. for 3.5 hrs. The reaction mixture was cooled and poured into a solution of 200 ml of 20% aqueous NaOH and 400 ml of water. The crystalline product was collected by filtration, washed well with water and dried, which gave 8.27 g (50.6% yield) of product. Recrystallization from ethanol afforded purified 1-bromo-4-(4-(methylsulfonyl)phenoxy)benzene, mp 127.5°-129° C.

reactant | 4-chlorophenyl methyl sulfone | 0.0500 mole, 9.54 g | CS(=O)(=O)C1=CC=C(C=C1)Cl | C7H7ClO2S
reactant | 4-bromophenol | 0.0750 mole, 13.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | K2CO3 | 0.0750 mole, 10.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sulfolane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | NaOH | 200 ml | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | 1-Bromo-4-(4-(methylsulfonyl)phenoxy)benzene | 8.27 g, 50.6% yield | BrC1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C13H11BrO3S
